US06987114B1
1-(Quinolin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 2-chloromethyl quinoline were reacted by the same way with the example 1 to obtain the titled compound (170 mg, yield: 39.8%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 2-chloromethyl quinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
product | 1-(Quinolin-2-ylmethyl)-5-isopropyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione | 170 mg, yield: 39.8% | N1=C(C=CC2=CC=CC=C12)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C26H25N3O3
